US05728376
Hydrazine hydrate and hydrogen peroxide (30 wt. % solution in water) were purchased from Mallinckrodt (Chesterfield, Mo.) and Fisher Chemical Co. (Fair Lawn, N.J.), respectively. Butyllithium (1.6M and 2.5M solutions in hexane), 2-(3-butynyloxy)tetrahydro-2H-pyran (1-(tetrahydopyran-2-yloxy)-3-butyne), lithium tetrahydridoaluminate, borane-methylsulfide complex, Cu(I)Br.Me2S complex, and p-toluenesulfonyl chloride from Aldrich Chemical Co. (Milwaukee, Wis.), and bromine and triphenylphosphine from Fluka Chemical Co. (Ronkonkoma, N.Y.), were used as purchased. 1-(Tetrahydopyran-2-yloxy)-4-pentyne was prepared from the corresponding alcohol using the methods described in Robertson, "Adducts of tert-alcohols containing an ethynyl group with dihydropyran. Potentially useful intermediates," J. Org. Chem. 25:931-932 (1960), the disclosure of which is hereby incorporated by reference. Column chromatography was run on silica gel (Merck, H 60), and reactions were monitored by TLC on Baker-flex Silica gel IB2-F plates (J. T. Baker). Silver nitrate column chromatography was done on silica gel impregnated with AgNO3 (20% of AgNO3 on silica gel Merck H 60).

reactant | Hydrazine hydrate | O.NN
reactant | hydrogen peroxide | OO | H2O2
reactant | Butyllithium | 1.6M | C(CCC)[Li]
reactant | 2-(3-butynyloxy)tetrahydro-2H-pyran | C(CC#C)OC1OCCCC1 | C9H14O2
reactant | lithium tetrahydridoaluminate | [Li+].[AlH4-]
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | bromine | BrBr | Br2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dihydropyran | O1CCCC=C1 | C5H8O
catalyst | Silver nitrate | [N+](=O)([O-])[O-].[Ag+]
product | 1-(Tetrahydopyran-2-yloxy)-4-pentyne | O1C(CCCC1)OCCCC#C | C10H16O2
